US06329367B1
tert-Butylamino-6-chloro-4H-thieno[3,2-e]-1,2,4-thiadiazine 1,1-dioxide
A solution of 3,6-dichloro-4H-thieno[3,2-e]-1,2,4-thiadiazine 1,1-dioxide (5.0 g, 19.45 mmol) in tert-butylamine (20 ml, 0.19 mol) was stirred for 20 h at 125° C. in a sealed flask. The cooled solution was concentrated in vacuo and the residue was stirred with water (25 ml) followed by adjustment to pH 2 with 4M hydrochloric acid. The resulting precipitate was isolated by filtration, washed with water, and then redissolved in 1 N sodium hydroxide (130 ml) followed by treatment with decolorising charcoal. After filtration, the clear solution was acidified to pH 2 and the precipitate was filtered off and recrystallised from methanol to give 2.91 g (52%) of the pure title compound; mp 368-372° C.; 1H-NMR (DMSO-d6): δ1.37 (s, 9H), 6.79 (br s, 1H), 7.11 (s, 1H), 10.55 (br s, 1H); MS: m/e 293/295 (M+); (C9H12N3Cl1O2S2) calc. C, 36.79; H, 4.12; N, 14.30; Cl, 12.07; S, 21.83; found C, 36.90; H, 4.11; N, 14.18; Cl, 12.05; S, 21.89.

reactant | 3,6-dichloro-4H-thieno[3,2-e]-1,2,4-thiadiazine 1,1-dioxide | 19.45 mmol, 5.0 g | ClC1=NS(C2=C(N1)C=C(S2)Cl)(=O)=O | C5H2Cl2N2O2S2
reactant | tert-butylamine | 0.19 mol, 20 ml | C(C)(C)(C)N | C4H11N
product | tert-Butylamino-6-chloro-4H-thieno[3,2-e]-1,2,4-thiadiazine 1,1-dioxide | 2.91 g, 52% | C(C)(C)(C)NC1=NS(C2=C(N1)C=C(S2)Cl)(=O)=O | C9H12ClN3O2S2
